US06555541B1
c) 2-(3-Chloro-4-fluorophenylamino-N-(5-hydroxy-2-methylphenyl)-acetamide
To a solution of 2-(3-chloro-4-fluorophenylamino)-N-(5-methoxy-2-methylphenyl)-acetamide (3.93 g) in anhydrous dichloromethane (450 ml) was stirred under nitrogen at −78° C. was added a solution of boron tribrouide (1M in dichloromethane, 95 ml) dropwise. The mixture was then allowed to warm to room temperature and stirred under nitrogen for 20 hours before being poured into ice/water (1 l), stirred vigorously for 1 hour and extracted into ethyl acetate (3×500 ml), dried (MgSO4) and concentrated. Purification of the residue by silica gel chromatography (eluting with 3% methanol in dichloromethane) gave the sub-title compound (2.65 g).

reactant | 2-(3-chloro-4-fluorophenylamino)-N-(5-methoxy-2-methylphenyl)-acetamide | 3.93 g | ClC=1C=C(C=CC1F)NCC(=O)NC1=C(C=CC(=C1)OC)C | C16H16ClFN2O2
reactant | boron | [B] | B
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
product | 3-Chloro-4-fluorophenylamino-N-(5-hydroxy-2-methylphenyl)-acetamide | 2.65 g | ClC=1C=C(C=CC1F)NCC(=O)NC1=C(C=CC(=C1)O)C | C15H14ClFN2O2
